US07608723B2
N-(3-aminopropyl)-N-[1-(1-benzyl-5-chloro-1H-indol-2-yl)-2-methylpropyl]benzamide (Compound 45)
To a solution of 1-(1-benzyl-5-chloro-1H-indole-2-yl)-2-methylpropan-1-amine (0.44 mmol) in 10 mL of anhydrous DCM, was added aldehyde (0.44 mmol) and sodium triacetoxyborohydride (0.44 mmol) at 0° C. The mixture was stirred at room temperature overnight. The solution was poured into 10% aq. NaOH, and extracted with EtOAc (×3). The organic layers were combined, washed with H2O (×3), brine (×3), dried (Na2SO4), filtered, and the filtrate was concentrated. The material was purified by flash chromatography (20% EtOAc:hexane) to yield 40 mg of title compound.

reactant | 1-(1-benzyl-5-chloro-1H-indole-2-yl)-2-methylpropan-1-amine | 0.44 mmol | C(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)Cl)C(C(C)C)N | C19H21ClN2
reactant | sodium triacetoxyborohydride | 0.44 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-aminopropyl)-N-[1-(1-benzyl-5-chloro-1H-indol-2-yl)-2-methylpropyl]benzamide | 40 mg | NCCCN(C(C1=CC=CC=C1)=O)C(C(C)C)C=1N(C2=CC=C(C=C2C1)Cl)CC1=CC=CC=C1 | C29H32ClN3O
